US04400202
N-m-AMINOPHENYL-2-METHYL-2-ETHYLSUCCINIMIDE (INTERMEDIATE)
Seventy-four g. of N-m-nitrophenyl-2-methyl-2-ethylsuccinimide, as prepared in Example VI, was added portion wise to 60 g. of iron powder, 4 ml. of concentrated HCl, 200 ml. of ethanol and 160 ml. of water at reflux. When addition was complete and the temperature had fallen to 70° C., the mixture was treated with 4 g. of 50% NaOH and filtered immediately. The filtercake was washed with hot ethyl alcohol and the filtrate stripped under vacuum. The product which crystallized on removal of the ethyl alcohol weighed 49 g. when dry and had a m.p. of 100°-102° C. The product was identified as the title compound by analysis of infrared spectra.

reactant | N-m-nitrophenyl-2-methyl-2-ethylsuccinimide | [N+](=O)([O-])C=1C=C(C=CC1)N1C(C(CC1=O)(CC)C)=O | C13H14N2O4
reactant | HCl | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | N-m-AMINOPHENYL-2-METHYL-2-ETHYLSUCCINIMIDE | NC=1C=C(C=CC1)N1C(C(CC1=O)(CC)C)=O | C13H16N2O2
